US07153964B2
2,4-Di-(4-sulphamoylanilino)-5-bromopyrimidine
A solution of 5-bromo-2,4-dichloropyrimidine (228 mg, 1.0 mmol), 4-sulphanilamide (180 mg, 1.05 mmol) and N,N-diisopropylethylamine (174 μl 1.0 mmol) in n-butanol (30 ml) was heated at 100° C. for 16 hours. A gum formed out of solution. Diethyl ether (20 ml) was added, causing the gum to solidify, and further precipitation to occur. The solid was collected by filtration and triturated with hot methanol, giving the title product (55 mg) as a white solid. NMR: (s, 2H), 7.30 (s, 2H), 7.64 (d, 2H), 7.80 (m, 4H), 7.88 (d, 2H), 8.36 (s, 1H), 8.93 (s, 1H), 9.88 (s, 1H).

reactant | 5-bromo-2,4-dichloropyrimidine | 1.0 mmol, 228 mg | BrC=1C(=NC(=NC1)Cl)Cl | C4HBrCl2N2
reactant | 4-sulphanilamide | 1.05 mmol, 180 mg | S(=O)(C1=CC=C(C=C1)N)(=O)N | C6H8N2O2S
reactant | N,N-diisopropylethylamine | 1.0 mmol, 174 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | Diethyl ether | 20 ml | C(C)OCC | C4H10O
reactant | n-butanol | 30 ml | C(CCC)O | C4H10O
product | 2,4-Di-(4-sulphamoylanilino)-5-bromopyrimidine | 55 mg | S(N)(=O)(=O)C1=CC=C(NC2=NC=C(C(=N2)NC2=CC=C(C=C2)S(N)(=O)=O)Br)C=C1 | C16H15BrN6O4S2
